US06300353B1
A mixture of magnesium (7.25 g, 0.298 mol) and iodine (catalytic amount) and 1-bromo-2,5-difluorobenzene (20.0 g, 0.178 mol) in THF (250ml ) was vigously stirred. The color of iodine was disappeared and the inner temperature rose up to 65° C. To this mixture was added additional 1-bromo-2,5-difluorobenzene (30.0 g, 0.267 mol) dropwise to maintain the inner temperature from 50 to 55° C. over 45min. The resulting mixture was stirred at 55° C. for 30min. then at r.t. for 1 hr. The mixture was cooled down to −5° C. To this mixture was added a solution of 4-[(2R)-2-(3,4,5,6-Tetrahydro-2H-pyran-2-yloxy)propionyl]morpholine (52.5 g, 0.216 mol ) in THF (150ml) dropwise over 40min. And the resulting mixture was stirred at r.t. for 4hrs. The reaction mixture was cooled down to 5° C. and saturated NH4Cl aq. (100ml) was added carefully. The whole was diluted with H2O (600ml) and extracted with EtOAc (400 ml+200 ml×2). The combined organic layer was dried over Na2SO4 and concentrated in vacuo. The residue was chromatographed on silica gel (n-hexane: EtOAc=10:1˜5:1) to give (2R)-2′,5′-Difluoro-2-(3,4,5,6-tetrahydro-2H-pyran-2-yloxy)-propiophenone (47.3 g, 81% ) as pale yellow syrup.

reactant | magnesium | 0.298 mol, 7.25 g | [Mg] | Mg
reactant | iodine | II | I2
reactant | 1-bromo-2,5-difluorobenzene | 0.178 mol, 20.0 g | BrC1=C(C=CC(=C1)F)F | C6H3BrF2
reactant | 1-bromo-2,5-difluorobenzene | 0.267 mol, 30.0 g | BrC1=C(C=CC(=C1)F)F | C6H3BrF2
reactant | 4-[(2R)-2-(3,4,5,6-Tetrahydro-2H-pyran-2-yloxy)propionyl]morpholine | 0.216 mol, 52.5 g | O1C(CCCC1)O[C@@H](C(=O)N1CCOCC1)C | C12H21NO4
reactant | NH4Cl | 100ml | [NH4+].[Cl-]
solvent | THF | 250ml | C1CCOC1 | C4H8O
solvent | THF | 150ml | C1CCOC1 | C4H8O
solvent | H2O | 600ml | O | H2O
product | (2R)-2′,5′-Difluoro-2-(3,4,5,6-tetrahydro-2H-pyran-2-yloxy)-propiophenone | 47.3 g, 81% | FC1=C(C=C(C=C1)F)C([C@@H](C)OC1OCCCC1)=O | C14H16F2O3
